### PR TITLE
feat: add `BEq` to `DHashMap`/`HashMap`/`HashSet` and their extensional variants

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds `BEq` instance for `DHashMap`/`HashMap`/`HashSet` and their extensional variants and proves lemmas relating it to the equivalence of hashmaps/equality of extensional variants.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 75342961fcc7bbcc911ad0497d18d95b0f008de9 --onto 5a4226f2bdcc6299df76285b1d30f238546c09fe`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-19 20:39:19)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 75342961fcc7bbcc911ad0497d18d95b0f008de9 --onto a106ea053fec080a50204b0ad6dadc69bc3f0937`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-20 20:35:01)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 75342961fcc7bbcc911ad0497d18d95b0f008de9 --onto b0e6db322421ce368999f08870fd747e45242f86`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-26 12:51:51)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-11-27` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-27 12:23:20)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 799d5944007085768dcc8b8558c6dae485d4ae22 --onto b0e6db322421ce368999f08870fd747e45242f86`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-27 17:54:43)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 5bd331e85d9d110a29fb3367dbb21854010ffcbd`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-01 13:53:32)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 0173444d24df9253d7947cfe82519e4a6caffd3a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-04 13:11:14)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto dd28f005889dd2fcca6fe0638133de561a655ad1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-04 18:08:38)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 455fd0b4488e2adc85f825a52e2ee7d944a5740a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-05 14:43:36)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 2ca3bc28590c5c33f755d3bd18252f25ea266266`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-08 09:01:13)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 62f2f9229356039356c0469a46d8ecd77be88e2a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-08 12:54:11)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 19e1fe55f33a8aadc4243da32828b70a4b4677cc`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-10 15:47:58)

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 1]
```diff
@@ -1838,6 +1838,41 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
   Raw₀.isEmpty_of_isEmpty_insertMany ⟨m.1, _⟩ m.2
 
+section BEq
+variable {m₁ m₂ : DHashMap α β} [LawfulBEq α] [∀ k, BEq (β k)]
+
+theorem Equiv.beq [∀ k, ReflBEq (β k)] (h : m₁ ~m m₂) : m₁ == m₂ := by
+  simp [BEq.beq]
+  apply Raw₀.Equiv.beq m₁.2 m₂.2 h.1
+
+theorem Equiv_of_beq_eq_true [∀ k, LawfulBEq (β k)] (h : m₁ == m₂) : m₁ ~m m₂ := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]:
```suggestion
theorem equiv_of_beq [∀ k, LawfulBEq (β k)] (h : m₁ == m₂) : m₁ ~m m₂ := by
```
(note the capitalization)
(also in many other files)

File: src/Std/Data/Internal/List/Associative.lean [hunk 2]
```diff
@@ -3569,6 +3577,74 @@ theorem insertList_insertEntry_right_equiv_insertEntry_insertList [BEq α] [Equi
   . simp only [Option.some_or]
   . rw [@getEntry?_insertList α β _ _ l toInsert distinct_l (DistinctKeys_impl_Pairwise_distinct distinct_toInsert) a]
 
+theorem length_le_of_keys_subset [BEq α] [EquivBEq α]
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: As mentioned before: if the token does not appear in the formal statement, it should not appear in the name. There is no `subset` in the statement, so it should not be in in the name. I would call this `length_le_length_of_containsKey`.

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 3]
```diff
@@ -1584,4 +1597,42 @@ theorem Const.wf_insertManyIfNewUnit₀ [BEq α] [Hashable α] [EquivBEq α] [La
     {l : ρ} (h' : m.WF) : (Const.insertManyIfNewUnit ⟨m, h⟩ l).1.1.WF :=
   (Raw₀.Const.insertManyIfNewUnit ⟨m, h⟩ l).2 _ Raw.WF.insertIfNew₀ h'
 
+theorem toListModel_beq [BEq α] [LawfulBEq α] [Hashable α] [∀ k, BEq (β k)] {m₁ m₂ : Raw₀ α β}  (h₁ : Raw.WFImp m₁.1) (h₂ : Raw.WFImp m₂.1) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean]: You're making life unnecessarily difficult for yourself here by using `toList` instead of `toListModel` (to be fair, this is in part due to #10765 setting things up in a suboptimal way). See https://github.com/TwoFX/lean4/commit/83dec7460c2e147eac27f87f5fdbe4e05d978f1d

Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean]: This should be called `beq_eq_beqModel`, in analogy to the similar lammeas for the other query operations.

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 4]
```diff
@@ -48,7 +47,7 @@ private meta def baseNames : Array Name :=
     ``getKey?_eq, ``getKey_eq, ``getKey!_eq, ``getKeyD_eq,
     ``insertMany_eq, ``Const.insertMany_eq, ``Const.insertManyIfNewUnit_eq, ``ofArray_eq, ``Const.ofArray_eq,
     ``ofList_eq, ``Const.ofList_eq, ``Const.unitOfList_eq, ``Const.unitOfArray_eq,
-    ``alter_eq, ``Const.alter_eq, ``modify_eq, ``Const.modify_eq, ``union_eq, ``inter_eq, ``diff_eq]
+    ``alter_eq, ``Const.alter_eq, ``modify_eq, ``Const.modify_eq, ``union_eq, ``inter_eq, `diff_eq, ``beq_eq, ``Const.beq_eq]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean]: Why did you remove one of the backticks in `diff_eq`?

File: src/Std/Data/DHashMap/Raw.lean [hunk 5]
```diff
@@ -537,6 +548,7 @@ This function always iterates through the smaller map, so the expected runtime i
   else
     m₂
 
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Raw.lean]: ?

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 6]
```diff
@@ -3759,6 +3758,44 @@ variable [BEq α] [Hashable α]
 
 open Internal.Raw Internal.Raw₀
 
+section BEq
+variable {m₁ m₂ : Raw α β} [LawfulBEq α] [∀ k, BEq (β k)]
+
+theorem Equiv.beq [∀ k, ReflBEq (β k)] (h₁ : m₁.WF) (h₂ : m₂.WF) : m₁ ~m m₂ → beq m₁ m₂ := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean]: Shouldn't this be

```suggestion
theorem Equiv.beq [∀ k, ReflBEq (β k)] (h₁ : m₁.WF) (h₂ : m₂.WF) : m₁ ~m m₂ → m₁ == m₂ := by
```
(and similar below)

File: src/Std/Data/HashMap/RawLemmas.lean [hunk 7]
```diff
@@ -1308,6 +1308,21 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α] (h : m.W
     {l : ρ} : (insertMany m l).isEmpty → m.isEmpty :=
   DHashMap.Raw.Const.isEmpty_of_isEmpty_insertMany h.out
 
+section
+variable {β : Type v} {m₁ m₂ : Raw α β}
+
+theorem Equiv.beq [LawfulHashable α] [EquivBEq α] [BEq β] [ReflBEq β] (h₁ : m₁.WF) (h₂ : m₂.WF) : m₁ ~m m₂ → beq m₁ m₂ := fun hyp =>
```
Comment (TwoFX) [inline src/Std/Data/HashMap/RawLemmas.lean]: Again, I think this should read

```suggestion
theorem Equiv.beq [LawfulHashable α] [EquivBEq α] [BEq β] [ReflBEq β] (h₁ : m₁.WF) (h₂ : m₂.WF) : m₁ ~m m₂ → m₁ == m₂ := fun hyp =>
```

File: src/Std/Data/HashSet/RawLemmas.lean [hunk 8]
```diff
@@ -814,6 +814,21 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α] (h : m.W
     {l : ρ} : (insertMany m l).isEmpty → m.isEmpty :=
   HashMap.Raw.isEmpty_of_isEmpty_insertManyIfNewUnit h.out
 
+section
+variable {m₁ m₂ : Raw α}
+
+theorem Equiv.beq [LawfulHashable α] [EquivBEq α] (h₁ : m₁.WF) (h₂ : m₂.WF) : m₁ ~m m₂ → beq m₁ m₂ := fun hyp =>
```
Comment (TwoFX) [inline src/Std/Data/HashSet/RawLemmas.lean]:
```suggestion
theorem Equiv.beq [LawfulHashable α] [EquivBEq α] (h₁ : m₁.WF) (h₂ : m₂.WF) : m₁ ~m m₂ → m₁ == m₂ := fun hyp =>
```

File: src/Std/Data/Internal/List/Associative.lean [hunk 9]
```diff
@@ -7557,6 +7633,157 @@ theorem isEmpty_filter_key_iff [BEq α] [EquivBEq α] {f : α → Bool}
...
+  rw [Bool.eq_iff_iff, Bool.eq_iff_iff, List.all_eq_true, List.all_eq_true]
+  simp only [iff_true]
+  constructor
+  · intro hyp ⟨k,v⟩ mem
+    exact hyp ⟨k,v⟩ (@Perm.mem_iff _ ⟨k,v⟩ l₁ l₂ hp |>.2 mem)
+  · intro hyp ⟨k,v⟩ mem
+    exact hyp ⟨k,v⟩ (@Perm.mem_iff _ ⟨k,v⟩ l₂ l₁ hp.symm |>.2 mem)
+
+theorem beqModel_congr [BEq α] [LawfulBEq α] [∀ k, BEq (β k)] {l₁ l₂ l₃ l₄ : List ((a : α) × β a)}
+(hl : DistinctKeys l₂) (p₁ : l₁.Perm l₃) (p₂ : l₂.Perm l₄) : beqModel l₁ l₂ = beqModel l₃ l₄ := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]:
```suggestion
    (hl : DistinctKeys l₂) (p₁ : l₁.Perm l₃) (p₂ : l₂.Perm l₄) : beqModel l₁ l₂ = beqModel l₃ l₄ := by
```

File: src/Std/Data/Internal/List/Associative.lean [hunk 10]
```diff
@@ -7557,6 +7633,157 @@ theorem isEmpty_filter_key_iff [BEq α] [EquivBEq α] {f : α → Bool}
...
+    rw [Perm.length_eq p₁, Perm.length_eq p₂] at h
+    simp only [h, ↓reduceIte]
+    have : fun (x : (a : α) × β a) => getValueCast? x.fst l₂ == some x.snd = fun x => getValueCast? x.fst l₄ == some x.snd := by
+      ext x
+      rw [getValueCast?_of_perm hl p₂]
+    rw [this]
+    apply all_congr p₁
+
+theorem Const.beqModel_congr {β : Type v} [BEq α] [LawfulBEq α] [BEq β] {l₁ l₂ l₃ l₄ : List ((_ : α) × β)}
+(hl : DistinctKeys l₂) (p₁ : l₁.Perm l₃) (p₂ : l₂.Perm l₄) : beqModel l₁ l₂ = beqModel l₃ l₄ := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]:
```suggestion
    (hl : DistinctKeys l₂) (p₁ : l₁.Perm l₃) (p₂ : l₂.Perm l₄) : beqModel l₁ l₂ = beqModel l₃ l₄ := by
```

File: src/Std/Data/Internal/List/Associative.lean [hunk 11]
```diff
@@ -7557,6 +7633,157 @@ theorem isEmpty_filter_key_iff [BEq α] [EquivBEq α] {f : α → Bool}
...
+    rw [beqModel]
+    rw [Perm.length_eq p₁, Perm.length_eq p₂] at h
+    simp only [h, ↓reduceIte]
+    have : fun (x : (_ : α) × β) => getValue? x.fst l₂ == some x.snd = fun x => getValue? x.fst l₄ == some x.snd := by
+      ext x
+      rw [getValue?_of_perm hl p₂]
+    rw [this]
+    apply all_congr p₁
+
+theorem beqModel_eq_beqModel_const {β : Type v} [BEq α] [LawfulBEq α] [BEq β] {l₁ l₂ : List ((_ : α) × β)} : beqModel l₁ l₂ = Const.beqModel l₁ l₂ := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]:
```suggestion
theorem beqModel_eq_constBeqModel {β : Type v} [BEq α] [LawfulBEq α] [BEq β] {l₁ l₂ : List ((_ : α) × β)} : beqModel l₁ l₂ = Const.beqModel l₁ l₂ := by
```

File: src/Std/Data/Internal/List/Associative.lean [hunk 12]
```diff
@@ -7557,6 +7633,157 @@ theorem isEmpty_filter_key_iff [BEq α] [EquivBEq α] {f : α → Bool}
...
+  case isFalse hlen =>
+    simp only [List.all_eq_true]
+    intro ⟨k,v⟩ mem
+    have hv := getValueCast_of_mem mem hl₁
+    have hc := containsKey_of_mem mem
+    apply beq_of_eq
+    simp only at |- hc hv
+    rw [← hv, ← getValueCast?_eq_some_getValueCast]
+    symm
+    apply getValueCast?_of_perm hl₁ hyp
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean:7644]: Don't use `split` if you know which case is true:

```suggestion
  intro hyp
  rw [beqModel, if_neg (by simpa using hyp.length_eq)]
  simp only [List.all_eq_true]
  intro ⟨k,v⟩ mem
  have hv := @getValue_of_mem α β _ _ l₁ ⟨k,v⟩ mem
  have hc := containsKey_of_mem mem
  apply beq_of_eq
  simp only at |- hc hv
  rw [← hv, ← getValue?_eq_some_getValue]
  · symm
    apply getValue?_of_perm hl₁ hyp
  · exact hl₁
  · exact hc
```

**Comment by wkrozowski** [comment]
@TwoFX Okay, resolved your round of comments.

File: src/Std/Data/DHashMap/Internal/Defs.lean [hunk 13]
```diff
@@ -490,11 +490,14 @@ def interSmaller [BEq α] [Hashable α] (m₁ : Raw₀ α β) (m₂ : Raw α β)
 def inter [BEq α] [Hashable α] (m₁ m₂ : Raw₀ α β) : Raw₀ α β :=
   if m₁.1.size ≤ m₂.1.size then m₁.filter fun k _ => m₂.contains k else interSmaller m₁ m₂
 
+/-- Internal implementation detail of the hash map -/
+def beq [BEq α] [LawfulBEq α] [Hashable α] [∀ k, BEq (β k)] (m₁ m₂ : Raw₀ α β) : Bool :=
+  if m₁.1.size ≠ m₂.1.size then false else m₁.1.all (fun k v => m₂.get? k == some v)
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/Defs.lean:495]: Why is this not something like `m₁.1.size == m₂.1.size && m₁.1.all (fun k v => m₂.get? k == some v)`?

File: src/Std/Data/ExtDHashMap/Basic.lean [hunk 14]
```diff
@@ -362,6 +362,66 @@ def union [EquivBEq α] [LawfulHashable α] (m₁ m₂ : ExtDHashMap α β) : Ex
...
+    induction m₂
+    case mk b =>
+      exact sound <| DHashMap.Const.equiv_of_beq h
+
+end Const
+
+namespace Const
+
+@[inline, inherit_doc DHashMap.beq]
+def beq_unit [LawfulBEq α] (m₁ m₂ : ExtDHashMap α fun _ => Unit) : Bool := lift₂ (fun x y : DHashMap α fun _ => Unit => DHashMap.Const.beq x y)
```
Comment (TwoFX) [inline src/Std/Data/ExtDHashMap/Basic.lean]: Please don't use `_` in definition names; `beqUnit` is better.

File: src/Std/Data/HashMap/Raw.lean [hunk 15]
```diff
@@ -250,6 +250,13 @@ instance [BEq α] [Hashable α] : Inter (Raw α β) := ⟨inter⟩
 
 instance [BEq α] [Hashable α] : SDiff (Raw α β) := ⟨diff⟩
 
+/-- Internal implementation detail of the hash map. -/
+def beq {β : Type v} [BEq α] [Hashable α] [BEq β] (m₁ m₂ : Raw α β) : Bool :=
+  DHashMap.Raw.Const.beq m₁.inner m₂.inner
+
+instance [BEq α] [Hashable α] [BEq β] : BEq (Raw α β) := ⟨beq⟩
+
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Raw.lean:257]:
```suggestion
```
(similar in other files)

File: src/Std/Data/Internal/List/Associative.lean [hunk 16]
```diff
@@ -3569,6 +3577,74 @@ theorem insertList_insertEntry_right_equiv_insertEntry_insertList [BEq α] [Equi
...
+          rw [containsKey_congr hyp] at dl₁
+          rw [dl₁.2] at mem
+          contradiction
+        · specialize h a
+          rw [containsKey_cons] at h
+          apply h
+          simp [mem]
+      · exact dl₂
+
+theorem containsKey_of_subset_of_length_eq [BEq α] [EquivBEq α] {l₁ l₂ : List ((a : α) × β a)} (dl₁ : DistinctKeys l₁) (dl₂ : DistinctKeys l₂) (hl : l₂.length = l₁.length) (hs : ∀ (a : α), containsKey a l₁ → containsKey a l₂)  : ∀ (a : α), containsKey a l₂ → containsKey a l₁ := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: Again, no `subset`.

File: src/Std/Data/Internal/List/Associative.lean [hunk 17]
```diff
@@ -7557,6 +7633,144 @@ theorem isEmpty_filter_key_iff [BEq α] [EquivBEq α] {f : α → Bool}
...
+        intro k' mem
+        have := eq_of_beq <| hyp2 k' mem
+        rw [getValueCast?_eq_some_getValueCast mem] at this
+        apply List.containsKey_of_getValueCast?_eq_some
+        exact this
+      case neg =>
+        rw [Bool.not_eq_true] at hc₂
+        rw [getValueCast?_eq_none hc₁, getValueCast?_eq_none hc₂]
+
+theorem all_congr [BEq α] {l₁ l₂ : List ((a : α) × β a)} {f : (a : α) × β a → Bool} (hp : l₁.Perm l₂) : l₁.all f = l₂.all f := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: This should be called `List.Perm.all_eq` and be located in `Init.Data.List.Perm`.

File: src/Std/Data/DHashMap/Internal/Defs.lean (hunk 13 above)
Comment (wkrozowski) [reply src/Std/Data/DHashMap/Internal/Defs.lean:495]: Fair enough, although I don't think it matters - it gets compiled to the same thing anyway.

File: src/Std/Data/ExtDHashMap/Basic.lean [hunk 18]
```diff
@@ -362,6 +362,66 @@ def union [EquivBEq α] [LawfulHashable α] (m₁ m₂ : ExtDHashMap α β) : Ex
...
+    induction m₂
+    case mk b =>
+      exact sound <| DHashMap.Const.equiv_of_beq h
+
+end Const
+
+namespace Const
+
+@[inline, inherit_doc DHashMap.beq]
+def beqUnit [LawfulBEq α] (m₁ m₂ : ExtDHashMap α fun _ => Unit) : Bool := lift₂ (fun x y : DHashMap α fun _ => Unit => DHashMap.Const.beq x y)
```
Comment (TwoFX) [inline src/Std/Data/ExtDHashMap/Basic.lean]: Actually, now I'm confused. Why does this exist specifically for `ExtDHashMap`? Did you just forget to remove it?

File: src/Std/Data/ExtHashMap/Basic.lean [hunk 19]
```diff
@@ -249,6 +249,21 @@ def union [EquivBEq α] [LawfulHashable α] (m₁ m₂ : ExtHashMap α β) : Ext
 
 instance [EquivBEq α] [LawfulHashable α] : Union (ExtHashMap α β) := ⟨union⟩
 
+@[inline, inherit_doc ExtDHashMap.beq]
+def beq [LawfulBEq α] [BEq β] (m₁ m₂ : ExtHashMap α β) : Bool := ExtDHashMap.Const.beq m₁.inner m₂.inner
```
Comment (Rob23oba) [inline src/Std/Data/ExtHashMap/Basic.lean]: Shouldn't this generalize to `EquivBEq`, `LawfulHashable`?

File: src/Init/Data/List/Perm.lean [hunk 20]
```diff
@@ -601,6 +601,15 @@ theorem sum_nat {l₁ l₂ : List Nat} (h : l₁ ~ l₂) : l₁.sum = l₂.sum :
   | swap => simpa [List.sum_cons] using Nat.add_left_comm ..
   | trans _ _ ih₁ ih₂ => simp [ih₁, ih₂]
 
+theorem all_eq {l₁ l₂ : List α} {f : α → Bool} (hp : l₁.Perm l₂) : l₁.all f = l₂.all f := by
```
Comment (Rob23oba) [inline src/Init/Data/List/Perm.lean:604]: Given we add `all_eq`, shouldn't we also add `any_eq`? (btw the proof can be shortened to `rw [Bool.eq_iff_iff]; simp [hp.mem_iff]`)

Comment (wkrozowski) [reply src/Init/Data/List/Perm.lean:604]: Thanks @Rob23oba. Both are indeed helpful suggestions and just pushed that.

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 21]
```diff
@@ -3759,6 +3759,38 @@ variable [BEq α] [Hashable α]
...
+end BEq
+
+section
+
+variable {β : Type v} {m₁ m₂ : Raw α (fun _ => β)}
+
+theorem Const.Equiv.beq [EquivBEq α] [LawfulHashable α] [BEq β] [ReflBEq β] (h₁ : m₁.WF) (h₂ : m₂.WF) (h : m₁ ~m m₂) : beq m₁ m₂ := by
+  simp_to_raw using Raw₀.Const.Equiv.beq
+
+theorem Const.equiv_of_beq [LawfulBEq α] [BEq β] [LawfulBEq β] (h₁ : m₁.WF) (h₂ : m₂.WF) (h : beq m₁ m₂ = true ) : m₁ ~m m₂ := by
```
Comment (wkrozowski) [inline src/Std/Data/DHashMap/RawLemmas.lean]: Whitespace issue in the hypothesis

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 22]
```diff
@@ -3759,6 +3759,38 @@ variable [BEq α] [Hashable α]
...
 open Internal.Raw Internal.Raw₀
 
+section BEq
+variable {m₁ m₂ : Raw α β} [LawfulBEq α] [∀ k, BEq (β k)]
+
+theorem Equiv.beq [∀ k, ReflBEq (β k)] (h₁ : m₁.WF) (h₂ : m₂.WF) (h : m₁ ~m m₂) : m₁ == m₂ := by
+  simp only [BEq.beq]
+  simp_to_raw using Raw₀.Equiv.beq
+
+theorem equiv_of_beq [∀ k, LawfulBEq (β k)] (h₁ : m₁.WF) (h₂ : m₂.WF) (h : beq m₁ m₂ = true) : m₁ ~m m₂ := by
```
Comment (wkrozowski) [inline src/Std/Data/DHashMap/RawLemmas.lean]: Use `==`

File: src/Std/Data/ExtHashMap/Basic.lean [hunk 23]
```diff
@@ -249,6 +249,20 @@ def union [EquivBEq α] [LawfulHashable α] (m₁ m₂ : ExtHashMap α β) : Ext
...
 instance [EquivBEq α] [LawfulHashable α] : Union (ExtHashMap α β) := ⟨union⟩
 
+instance [EquivBEq α] [LawfulHashable α] [BEq β] : BEq (ExtHashMap α β) where
+  beq m₁ m₂ := ExtDHashMap.Const.beq m₁.inner m₂.inner
+
+instance [EquivBEq α] [LawfulHashable α] [BEq β] [ReflBEq β] : ReflBEq (ExtHashMap α β) where
+  rfl := ExtDHashMap.Const.beq_of_eq _ _ rfl
+
+instance [LawfulBEq α] [BEq β] [LawfulBEq β] : LawfulBEq (ExtHashMap α β) where
+  eq_of_beq {a} {b} hyp :=
```
Comment (wkrozowski) [inline src/Std/Data/ExtHashMap/Basic.lean]: by on the preceeding line

File: src/Std/Data/ExtHashSet/Basic.lean [hunk 24]
```diff
@@ -204,6 +204,19 @@ def union [EquivBEq α] [LawfulHashable α] (m₁ m₂ : ExtHashSet α) : ExtHas
...
 instance [EquivBEq α] [LawfulHashable α] : Union (ExtHashSet α) := ⟨union⟩
 
+instance [EquivBEq α] [LawfulHashable α] : BEq (ExtHashSet α) where
+  beq m₁ m₂ := ExtDHashMap.Const.beq m₁.inner.inner m₂.inner.inner
+
+instance [EquivBEq α] [LawfulHashable α] : ReflBEq (ExtHashSet α) where
+  rfl := ExtDHashMap.Const.beq_of_eq _ _ rfl
+
+instance [LawfulBEq α] : LawfulBEq (ExtHashSet α) where
+  eq_of_beq {a} {b} hyp  := by
```
Comment (wkrozowski) [inline src/Std/Data/ExtHashSet/Basic.lean]: whitespace

File: src/Std/Data/HashSet/Basic.lean [hunk 25]
```diff
@@ -259,6 +259,16 @@ This function always iterates through the smaller set, so the expected runtime i
 
 instance [BEq α] [Hashable α] : Inter (HashSet α) := ⟨inter⟩
 
+
+/--
+Compares two hash sets using Boolean equality on keys.
+Returns `true` if the sets contain the same keys pairs, `false` otherwise.
```
Comment (wkrozowski) [inline src/Std/Data/HashSet/Basic.lean]: Grammar

Comment (wkrozowski) [reply src/Std/Data/HashSet/Basic.lean]: Add a blank line between these sentences

File: src/Std/Data/Internal/List/Associative.lean [hunk 26]
```diff
@@ -3569,6 +3577,74 @@ theorem insertList_insertEntry_right_equiv_insertEntry_insertList [BEq α] [Equi
...
+    (h : ∀ a, containsKey a l₁ → containsKey a l₂) :
+    l₁.length ≤ l₂.length := by
+  induction l₁ generalizing l₂ with
+  | nil => simp
+  | cons hd tl ih =>
+    have hc := h hd.1 (by rw [containsKey_cons_self])
+    suffices tl.length ≤ (eraseKey hd.1 l₂).length by
+      rw [List.length_eraseKey, hc] at this
+      simp at this
+      simp
```
Comment (wkrozowski) [inline src/Std/Data/Internal/List/Associative.lean]: Non-terminal simp

File: src/Std/Data/DHashMap/Raw.lean [hunk 27]
```diff
@@ -522,6 +511,25 @@ This function always merges the smaller map into the larger map, so the expected
...
+/--
+Compares two hash maps using Boolean equality on keys and values.
+
+Returns `true` if the maps contain the same key-value pairs, `false` otherwise.
+-/
+def beq [BEq α] [Hashable α] [LawfulBEq α] [∀ k, BEq (β k)] (m₁ m₂ : Raw α β) : Bool :=
+    if h : 0 < m₁.buckets.size ∧ 0 < m₂.buckets.size then
+      Raw₀.beq ⟨m₁, h.1⟩ ⟨m₂, h.2⟩
+    else
+      false
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Raw.lean]: Here the indentation is incorrect.

File: src/Std/Data/DHashMap/Raw.lean [hunk 28]
```diff
@@ -522,6 +511,25 @@ This function always merges the smaller map into the larger map, so the expected
...
+
+instance [BEq α] [Hashable α] [LawfulBEq α] [∀ k, BEq (β k)] : BEq (Raw α β) := ⟨beq⟩
+
+@[inherit_doc DHashMap.Raw.beq] def Const.beq {β : Type v} [BEq α] [Hashable α] [BEq β] (m₁ m₂ : Raw α (fun _ => β)) : Bool :=
+   if h : 0 < m₁.buckets.size ∧ 0 < m₂.buckets.size then
+        Raw₀.Const.beq ⟨m₁, h.1⟩ ⟨m₂, h.2⟩
+    else
+      false
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Raw.lean]: And here as well.
